data/mechanism_extracts/JACS/10.1021_ja00028a042.json
{"doi": "10.1021_ja00028a042", "journal": "JACS", "is_review": false, "rxn_class_summary": "Electron-transfer-induced valence isomerization of 2,2'-distyrylbiphenyl into 9,10-dibenzyl-9,10-dihydrophenanthrene or a cyclobutane via reductive bis-benzylic dianion intermediates.", "mechanism_family": ["radical_cathodic", "mediator_cathodic", "radical_anion", "direct_SET"], "electrochemical_role": "Cathodic reduction (heterogeneous on K/Li, homogeneous via mediator dianions such as anthracene or stilbene, or electrochemically in DMA/THF) sequentially injects electrons into 2,2'-distyrylbiphenyl to form radical anion 1•-, dianion 1^2-, and higher anions which undergo skeletal rearrangement.", "key_intermediates": [{"name": "radical monoanion of 2,2'-distyrylbiphenyl (1•-) with intact frame", "smiles": null, "role": "transient"}, {"name": "dianion 1^2- (reactive dianion that rearranges)", "smiles": null, "role": "reactive"}, {"name": "bis-benzylic dianion 3^2- (9,10-dihydrophenanthrene-type, trans-configured benzyl substituents), conformers 3a^2- and 3b^2-", "smiles": null, "role": "reactive"}, {"name": "cyclobutane radical anion 2b•-", "smiles": null, "role": "transient"}, {"name": "cyclobutane dianion 3b^2- precursor to 2b upon reoxidation", "smiles": null, "role": "transient"}, {"name": "phenanthrene and stilbene radical anion/dianion fragmentation products", "smiles": null, "role": "off_pathway"}, {"name": "trianion 3•3- / tetraanion 1^4-", "smiles": null, "role": "off_pathway"}, {"name": "9,10-dibenzyl-9,10-dihydrophenanthrene (6), product from protonation of 3^2-", "smiles": null, "role": "transient"}, {"name": "all-trans cyclobutane 2b, product from oxidation of 3b^2-", "smiles": null, "role": "transient"}, {"name": "tetrahydro derivative 10 from protonation of 1^4-", "smiles": null, "role": "off_pathway"}], "electron_flow": "Cathode (or alkali metal / mediator dianion) delivers a first electron to 1 giving stable 1•-, then a second electron yields dianion 1^2- which rapidly rearranges (C-C bond formation at the benzylic/styryl carbons) into the bis-benzylic dianion 3^2- (kinetically as 3b^2-, equilibrating to 3a^2-); protonation of 3^2- gives dihydrophenanthrene 6, whereas oxidative quenching of 3b^2- (via 2b•-) closes the second C-C bond to give cyclobutane 2b. Overall observed as a two-electron EEC(DISP) process with disproportionation of 1•- driven by ion pairing.", "rate_determining_step": "Follow-up rearrangement of dianion 1^2- to 3^2- (k ≈ 0.2 s^-1 in DMA at -40 °C; 0.04 s^-1 in DMA/TBABr), fastened at the dianion (or trianion) stage.", "probe_reagents": [{"name": "CdCl2 (oxidative quench)", "smiles": "[Cd+2].[Cl-].[Cl-]", "purpose": "intermediate_trap", "observation": "Reoxidation of anions traps 3^2- as dihydrophenanthrene 6 (up to 100%); also generates cyclobutane 2b from 3b^2-."}, {"name": "Iodine (oxidative quench)", "smiles": "II", "purpose": "intermediate_trap", "observation": "Slow reoxidation yields stereoselectively the all-trans cyclobutane 2b (25-28%) alongside 6."}, {"name": "Methylene bromide / 1,2-dibromoethane", "smiles": "BrCBr", "purpose": "intermediate_trap", "observation": "Quenching gives only starting material recovered (no alkylation of dianion); indicates fast SET from dianion."}, {"name": "1,3-dibromopropane", "smiles": "BrCCCBr", "purpose": "intermediate_trap", "observation": "28% mono- and diadducts 7a/7b formed, evidencing benzylic carbanion character of 3^2-."}, {"name": "Ethanol / methanol (protonation)", "smiles": "CCO", "purpose": "intermediate_trap", "observation": "Fast protonation of 3^2- gives 6 quantitatively; protonation of 1^4- gives tetrahydro 10."}, {"name": "Anthracene (mediator)", "smiles": "c1ccc2cc3ccccc3cc2c1", "purpose": "redox_probe", "observation": "Anthracene dianion (E = -2.55 V) delivers one electron to 1 giving radical monoanion; product distribution (30% SM, 2-7% 6, 10-13% 11) confirms accessibility of mono- vs dianion stages."}, {"name": "Stilbene (mediator)", "smiles": "C(=Cc1ccccc1)c1ccccc1", "purpose": "redox_probe", "observation": "Stilbene dianion (-2.67 V) cleanly drives 1 to 3^2-, isolated as 6 after CdCl2 quench."}, {"name": "tert-butyl-substituted analog 5", "smiles": null, "purpose": "other", "observation": "Solubility/steric probe: gives tetraanion 5^4- cleanly observable by NMR; second bond formation to cyclobutane sterically hindered, so only DHP 8 (no [2+2] adduct 9) forms."}, {"name": "15-crown-5", "smiles": "C1COCCOCCOCCOCCO1", "purpose": "other", "observation": "Sequestration of alkali cations suppresses ion-pair-driven follow-up reactions, supporting ion-pair acceleration of 1^2- → 3^2-."}, {"name": "TBABr / TBAPF6 vs alkali salts (supporting electrolyte)", "smiles": null, "purpose": "redox_probe", "observation": "Switching to TBA+ reduces ion pairing; ΔE between first two reductions drops to ~90 mV (vs ~220 mV with alkali), slowing 1^2- → 3^2- ~5x and shifting product distribution."}], "evidence_types_used": ["cyclic_voltammetry", "EPR", "stoichiometric_intermediate", "intermediate_trap_other", "isolation_of_intermediate", "kinetic_order", "other"], "evidence_strength": "strong", "notes": "Authors explicitly rule out an intramolecular [2+2] cycloaddition pathway (concerted or radical-anion mediated) for forming cyclobutane 2 under reductive conditions: 2b only appears upon reoxidation of 3b^2-. The voltammetric two-electron behavior at the first reduction is interpreted as an EEC(DISP) mechanism (Scheme III) rather than a true ECE, with disproportionation 2·1•- ⇌ 1 + 1^2- driven by ion pairing. Two conformers 3a^2- (rotatable, charges far apart, thermodynamic) and 3b^2- (fixed, charges close, kinetic) are invoked; only 3b^2- ring-closes stereoselectively to trans-2b. Side pathway at high T/low charge: fragmentation of 2 to phenanthrene + stilbene; at high charge: over-reduction to inert tetraanion 1^4- trapped as tetrahydro 10. Contrasts with photochemical [2+2] which gives all-trans 2b and thermal which gives all-cis 2a."}
